US06995144B2
1-(Piperidin-4-yl)-2-[2-(trifluoromethyl)phenyl]ethanone hydrochloride
After dissolving 1.30 g of 1-(1-benzylpiperidin-4-yl)-2-[2-(trifluoromethyl)phenyl]ethanone in 10 ml of 1,2-dichloroethane, 0.58 ml of 1-chloroethyl chloroformate was added while stirring at room temperature and the mixture was heated to reflux for 1 hour. The solvent was distilled off under reduced pressure, 10 ml of methanol was added to the residue and heating to reflux was continued for 30 minutes. The solvent was distilled off under reduced pressure, ethyl acetate/n-hexane was added to the residue and the precipitate was filtered out to obtain the title compound (916 mg, 83% yield).

reactant | 1-(1-benzylpiperidin-4-yl)-2-[2-(trifluoromethyl)phenyl]ethanone | 1.30 g | C(C1=CC=CC=C1)N1CCC(CC1)C(CC1=C(C=CC=C1)C(F)(F)F)=O | C21H22F3NO
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | 1-chloroethyl chloroformate | 0.58 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
product | 1-(Piperidin-4-yl)-2-[2-(trifluoromethyl)phenyl]ethanone hydrochloride | 916 mg, 83% yield | Cl.N1CCC(CC1)C(CC1=C(C=CC=C1)C(F)(F)F)=O | InChI=1S/C14H16F3NO.ClH/c15-14(16,17)12-4-2-1-3-11(12)9-13(19)10-5-7-18-8-6-10;/h1-4,10,18H,5-9H2;1H
